US05236952
A solution of 4.0 g of n-hexyl 3,4-dihydroxy-5-nitrophenylglyoxylate and 1.5 g of diaminomaleonitrile in 35 ml of ethanol is heated to boiling under relfux for 24 hours. The alcohol is then distilled, the residue is dissolved in ether, washed with water, dried over sodium sulfate, filtered and evaporated. There is obtained 6-hydroxy-5-(3,4-dihydroxy-5-nitrophenyl)-2,3-pyrazinedicarbonitrile of m.p. >300° (from ether/methylene chloride).

reactant | n-hexyl 3,4-dihydroxy-5-nitrophenylglyoxylate | 4.0 g | OC=1C=C(C=C(C1O)[N+](=O)[O-])C(C(=O)OCCCCCC)=O | C14H17NO7
reactant | diaminomaleonitrile | 1.5 g | N/C(=C(/C#N)\N)/C#N | C4H4N4
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 6-hydroxy-5-(3,4-dihydroxy-5-nitrophenyl)-2,3-pyrazinedicarbonitrile | OC1=C(N=C(C(=N1)C#N)C#N)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C12H5N5O5
